US07960369B2
methyl 3-(4-((3-(2-methylphenoxy)benzyl)oxy)phenyl)propanoate
The title compound was synthesized in the same manner as in Example 277 from methyl 3-(4-hydroxyphenyl)propanoate and [3-(2-methylphenoxy)phenyl]methanol (synthesized in the same manner as in Reference Example 201 from o-cresol and 3-bromobenzaldehyde (mixture with side product)) (preparative HPLC (gradient cycle A) was used for purification). colorless oil (yield 28%).

reactant | methyl 3-(4-hydroxyphenyl)propanoate | OC1=CC=C(C=C1)CCC(=O)OC | C10H12O3
reactant | [3-(2-methylphenoxy)phenyl]methanol | CC1=C(OC=2C=C(C=CC2)CO)C=CC=C1 | C14H14O2
reactant | o-cresol | C1(=CC=CC=C1O)C | C7H8O
reactant | 3-bromobenzaldehyde | BrC=1C=C(C=O)C=CC1 | C7H5BrO
product | methyl 3-(4-((3-(2-methylphenoxy)benzyl)oxy)phenyl)propanoate | CC1=C(OC=2C=C(COC3=CC=C(C=C3)CCC(=O)OC)C=CC2)C=CC=C1 | C24H24O4
